US08134007B2
Imidazole-1-carbothioic acid O-[1-(2-bromophenyl)-2,2,2-trifluoroethyl]-ester
Thiophosgene (24.0 g, 210.0 mmol) was added portion-wise to a vigorously stirred suspension of imidazole (57.0 g, 840.0 mmol) in 1,2-dichloroethane (500 ml) under an atmosphere of nitrogen. After the addition, the reaction mixture was stirred at room temperature for 30 minutes. 1-(2-Bromophenyl)-2,2,2-trifluoro-ethanol (Preparation 55, 46 g, crude, about 140 mmol) in 1,2-dichloroethane (100 m) was added at room temperature. After the addition, the mixture was heated at reflux for 10 minutes. The reaction mixture was cooled then the solvent was evaporated in vacuo. The crude product was purified by column chromatography on silica gel eluting with petroleum ether, then petroleum ether:ethyl acetate (10:1) to afford the title compound as a yellow oil (41.5 g, 81%).

reactant | Thiophosgene | 210.0 mmol, 24.0 g | C(=S)(Cl)Cl | CCl2S
reactant | imidazole | 840.0 mmol, 57.0 g | N1C=NC=C1 | C3H4N2
reactant | 1-(2-Bromophenyl)-2,2,2-trifluoro-ethanol | about 140 mmol, 46 g | BrC1=C(C=CC=C1)C(C(F)(F)F)O | C8H6BrF3O
solvent | 1,2-dichloroethane | 500 ml | ClCCCl | C2H4Cl2
product | Imidazole-1-carbothioic acid O-[1-(2-bromophenyl)-2,2,2-trifluoroethyl]-ester | 41.5 g, 81% | BrC1=C(C=CC=C1)C(C(F)(F)F)OC(=S)N1C=NC=C1 | C12H8BrF3N2OS
